US06432957B1
Synthesis of N-(2-nitrobenzenesulfonyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]glycine methyl ester
N-(2-Nitrobenzenesulfonyl)glycine methyl ester (5.60 g) was dissolved in acetonitrile (100 mL), and to the solution potassium carbonate (3.10 g) and potassium iodide (2.29 g) were added. To the mixture, 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine (6.00 g) was then added, and the resultant mixture was stirred at 80° C. for 1 hour. The reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue, and the resultant mixture was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=50:1) to obtain the title compound.

reactant | N-(2-Nitrobenzenesulfonyl)glycine methyl ester | 5.60 g | COC(CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C9H10N2O6S
reactant | potassium carbonate | 3.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.29 g | [I-].[K+]
reactant | 4-chloromethyl-2-(3,4,5-trimethoxyphenyl)pyridine | 6.00 g | ClCC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H16ClNO3
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | N-(2-nitrobenzenesulfonyl)-N-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]glycine methyl ester | COC(CN(CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C24H25N3O9S
